* SPICE netlist generated by Yosys 0.9 (git sha1 1979e0b)

.SUBCKT sar_logic avdd avss clk rstn en comp cal valid result_0_ result_1_ result_2_ result_3_ result_4_ result_5_ result_6_ result_7_ sample ctlp_0_ ctlp_1_ ctlp_2_ ctlp_3_ ctlp_4_ ctlp_5_ ctlp_6_ ctlp_7_ ctln_0_ ctln_1_ ctln_2_ ctln_3_ ctln_4_ ctln_5_ ctln_6_ ctln_7_ trim_0_ trim_1_ trim_2_ trim_3_ trim_4_ trimb_0_ trimb_1_ trimb_2_ trimb_3_ trimb_4_ clkc
X0 1 state_2_ avdd avss avdd avss sky130_fd_sc_hd__clkinv_1
X1 2 cal_count_1_ avdd avss avdd avss sky130_fd_sc_hd__clkinv_1
X2 3 cal_count_2_ avdd avss avdd avss sky130_fd_sc_hd__clkinv_1
X3 ctlp_4_ mask_4_ result_4_ avdd avss avdd avss sky130_fd_sc_hd__lpflow_inputiso1p_1
X4 ctln_4_ ctlp_4_ avdd avss avdd avss sky130_fd_sc_hd__clkinv_1
X5 ctlp_5_ result_5_ mask_5_ avdd avss avdd avss sky130_fd_sc_hd__lpflow_inputiso1p_1
X6 ctln_5_ ctlp_5_ avdd avss avdd avss sky130_fd_sc_hd__clkinv_1
X7 ctlp_6_ result_6_ mask_6_ avdd avss avdd avss sky130_fd_sc_hd__lpflow_inputiso1p_1
X8 ctln_6_ ctlp_6_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X9 ctlp_7_ result_7_ mask_7_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X10 ctln_7_ ctlp_7_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X11 4 cal_itt_3_ cal_itt_2_ cal_itt_0_ cal_itt_1_ avdd avss avdd avss sky130_fd_sc_hd_and4b_1
X12 5 cal_itt_3_ cal_itt_2_ cal_itt_0_ cal_itt_1_ avdd avss avdd avss sky130_fd_sc_hd_nand4b_1
X13 6 cal_itt_0_ 5 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X14 7 state_1_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_nand2b_1
X15 8 state_1_ state_0_ state_2_ avdd avss avdd avss sky130_fd_sc_hd_nand3b_1
X16 9 4 8 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X17 10 trim_mask_0_ cal_itt_0_ avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X18 11 4 10 8 avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X19 12 state_2_ en 7 avdd avss avdd avss sky130_fd_sc_hd_o21bai_1
X20 13 6 11 12 cal_itt_0_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X21 14 cal_itt_0_ cal_itt_1_ avdd avss avdd avss sky130_fd_sc_hd_xor2_1
X22 15 4 14 11 avdd avss avdd avss sky130_fd_sc_hd_o21ai_0
X23 16 cal_itt_1_ 12 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X24 17 15 16 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X25 18 cal_itt_0_ cal_itt_1_ cal_itt_2_ avdd avss avdd avss sky130_fd_sc_hd_a21o_1
X26 19 cal_itt_0_ cal_itt_1_ cal_itt_3_ cal_itt_2_ avdd avss avdd avss sky130_fd_sc_hd_nand4_1
X27 20 11 18 19 12 cal_itt_2_ avdd avss avdd avss sky130_fd_sc_hd_a32o_1
X28 21 cal_itt_0_ cal_itt_1_ cal_itt_2_ 1 avdd avss avdd avss sky130_fd_sc_hd_a31oi_1
X29 22 12 21 cal_itt_3_ avdd avss avdd avss sky130_fd_sc_hd_o21a_1
X30 23 12 9 cal_count_0_ avdd avss avdd avss sky130_fd_sc_hd_mux2i_1
X31 24 cal_count_0_ cal_count_1_ avdd avss avdd avss sky130_fd_sc_hd_xor2_1
X32 25 comp 24 avdd avss avdd avss sky130_fd_sc_hd_xnor2_1
X33 26 2 12 25 9 avdd avss avdd avss sky130_fd_sc_hd_a22oi_1
X34 27 cal_count_0_ cal_count_1_ comp avdd avss avdd avss sky130_fd_sc_hd_nor3b_1
X35 28 comp cal_count_1_ cal_count_0_ avdd avss avdd avss sky130_fd_sc_hd_and3b_1
X36 29 27 28 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X37 30 3 29 avdd avss avdd avss sky130_fd_sc_hd_xnor2_1
X38 31 3 12 30 9 avdd avss avdd avss sky130_fd_sc_hd_a22oi_1
X39 32 27 28 cal_count_2_ avdd avss avdd avss sky130_fd_sc_hd_mux2i_1
X40 33 cal_count_3_ 32 avdd avss avdd avss sky130_fd_sc_hd_xnor2_1
X41 34 cal_count_3_ 12 33 9 avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X42 35 state_2_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_nand2b_1
X43 36 state_1_ 35 en avdd avss avdd avss sky130_fd_sc_hd_nor3b_1
X44 37 trim_mask_0_ 4 8 avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X45 38 state_2_ state_1_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_and3b_1
X46 39 mask_0_ 38 avdd avss avdd avss sky130_fd_sc_hd_lpflow_isobufsrc_1
X47 40 state_1_ mask_0_ 35 avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X48 41 en_co_clk 36 37 40 avdd avss avdd avss sky130_fd_sc_hd_o22ai_1
X49 42 en_co_clk 8 35 avdd avss avdd avss sky130_fd_sc_hd_nand3_1
X50 43 41 42 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X51 trim_0_ trim_mask_0_ trim_val_0_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X52 trimb_0_ trim_0_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X53 44 state_2_ state_1_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_or3_1
X54 45 state_2_ state_0_ state_1_ avdd avss avdd avss sky130_fd_sc_hd_nor3b_1
X55 46 calibrate 45 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X56 47 44 46 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X57 48 trim_val_0_ 44 46 avdd avss avdd avss sky130_fd_sc_hd_and3_1
X58 49 5 8 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X59 50 trim_mask_0_ cal_count_3_ 49 48 avdd avss avdd avss sky130_fd_sc_hd_a31o_1
X60 trim_1_ trim_val_1_ trim_mask_1_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X61 trimb_1_ trim_1_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X62 51 cal_count_3_ trim_mask_1_ 49 trim_val_1_ avdd avss avdd avss sky130_fd_sc_hd_a31oi_1
X63 52 47 51 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X64 trim_2_ trim_val_2_ trim_mask_2_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X65 trimb_2_ trim_2_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X66 53 cal_count_3_ 49 trim_val_2_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X67 54 47 trimb_2_ 53 avdd avss avdd avss sky130_fd_sc_hd_nor3_1
X68 trim_3_ trim_val_3_ trim_mask_3_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X69 trimb_3_ trim_3_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X70 55 cal_count_3_ trim_mask_3_ 49 trim_val_3_ avdd avss avdd avss sky130_fd_sc_hd_a31oi_1
X71 56 47 55 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X72 trimb_4_ trim_val_4_ trim_mask_4_ avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X73 trim_4_ trimb_4_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X74 57 cal_count_3_ 49 trim_val_4_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X75 58 47 trimb_4_ 57 44 avdd avss avdd avss sky130_fd_sc_hd_o31ai_1
X76 59 calibrate 45 49 avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X77 60 trim_mask_1_ 49 59 trim_mask_0_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X78 61 trim_mask_2_ 49 59 trim_mask_1_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X79 62 trim_mask_3_ 49 59 trim_mask_2_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X80 63 trim_mask_4_ 49 59 trim_mask_3_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X81 64 5 8 trim_mask_4_ avdd avss avdd avss sky130_fd_sc_hd_o21ai_0
X82 65 46 64 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X83 66 en state_1_ 35 avdd avss avdd avss sky130_fd_sc_hd_nor3_1
X84 67 35 66 avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X85 68 mask_1_ 38 67 mask_0_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X86 69 mask_2_ 38 67 mask_1_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X87 70 mask_3_ 38 67 mask_2_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X88 71 mask_4_ 38 67 mask_3_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X89 72 mask_5_ 38 67 mask_4_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X90 73 mask_6_ 38 67 mask_5_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X91 74 mask_7_ 38 67 mask_6_ avdd avss avdd avss sky130_fd_sc_hd_a22o_1
X92 75 mask_7_ 36 NC368 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X93 76 38 75 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X94 valid 1 state_1_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_nor3_1
X95 77 state_2_ state_1_ state_0_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X96 sample 1 7 45 avdd avss avdd avss sky130_fd_sc_hd_o21bai_1
X97 78 state_2_ state_1_ avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X98 79 78 avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X99 80 9 79 state_0_ avdd avss avdd avss sky130_fd_sc_hd_o21ai_0
X100 81 10 49 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X101 82 39 66 77 avdd avss avdd avss sky130_fd_sc_hd_nor3_1
X102 83 80 81 82 avdd avss avdd avss sky130_fd_sc_hd_nand3_1
X103 84 calibrate 45 avdd avss avdd avss sky130_fd_sc_hd_lpflow_isobufsrc_1
X104 85 36 39 79 84 avdd avss avdd avss sky130_fd_sc_hd_or4_1
X105 86 mask_0_ 38 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X106 87 8 46 78 86 avdd avss avdd avss sky130_fd_sc_hd_nand4_1
X107 88 cal 36 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X108 89 12 37 calibrate avdd avss avdd avss sky130_fd_sc_hd_o21ai_0
X109 90 88 89 avdd avss avdd avss sky130_fd_sc_hd_nand2_1
X110 91 comp 38 avdd avss avdd avss sky130_fd_sc_hd_and2_0
X111 ctlp_0_ mask_0_ result_0_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X112 ctln_0_ ctlp_0_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X113 92 mask_0_ 91 result_0_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X114 93 36 92 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X115 ctlp_1_ mask_1_ result_1_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X116 ctln_1_ ctlp_1_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X117 94 mask_1_ 91 result_1_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X118 95 36 94 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X119 ctlp_2_ mask_2_ result_2_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X120 ctln_2_ ctlp_2_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X121 96 mask_2_ 91 result_2_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X122 97 36 96 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X123 ctlp_3_ mask_3_ result_3_ avdd avss avdd avss sky130_fd_sc_hd_lpflow_inputiso1p_1
X124 ctln_3_ ctlp_3_ avdd avss avdd avss sky130_fd_sc_hd_clkinv_1
X125 98 mask_3_ 91 result_3_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X126 99 36 98 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X127 100 mask_4_ 91 result_4_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X128 101 36 100 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X129 102 mask_5_ 91 result_5_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X130 103 36 102 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X131 104 mask_6_ 91 result_6_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X132 105 36 104 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X133 106 mask_7_ 91 result_7_ avdd avss avdd avss sky130_fd_sc_hd_a21oi_1
X134 107 36 106 avdd avss avdd avss sky130_fd_sc_hd_nor2_1
X135 clkc clk en_co_clk avdd avss avdd avss sky130_fd_sc_hd_lpflow_isobufsrc_1
X136 result_0_ clk 93 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X137 result_1_ clk 95 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X138 result_2_ clk 97 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X139 result_3_ clk 99 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X140 result_4_ clk 101 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X141 result_5_ clk 103 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X142 result_6_ clk 105 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X143 result_7_ clk 107 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X144 calibrate clk 90 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X145 state_0_ clk 83 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X146 state_1_ clk 85 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X147 state_2_ clk 87 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X148 mask_0_ clk 68 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X149 mask_1_ clk 69 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X150 mask_2_ clk 70 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X151 mask_3_ clk 71 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X152 mask_4_ clk 72 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X153 mask_5_ clk 73 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X154 mask_6_ clk 74 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X155 mask_7_ clk 76 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X156 trim_mask_0_ clk 60 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X157 trim_mask_1_ clk 61 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X158 trim_mask_2_ clk 62 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X159 trim_mask_3_ clk 63 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X160 trim_mask_4_ clk 65 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X161 trim_val_0_ clk 50 rstn  avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X162 trim_val_1_ clk 52 rstn  avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X163 trim_val_2_ clk 54 rstn  avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X164 trim_val_3_ clk 56 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X165 trim_val_4_ clk 58 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X166 en_co_clk clk 43 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X167 cal_count_0_ clk 23 rstn avdd avss avdd avss sky130_fd_sc_hd_dfstp_2
X168 cal_count_1_ clk 26 rstn avdd avss avdd avss sky130_fd_sc_hd_dfstp_2
X169 cal_count_2_ clk 31 rstn avdd avss avdd avss sky130_fd_sc_hd_dfstp_2
X170 cal_count_3_ clk 34 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X171 cal_itt_0_ clk 13 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X172 cal_itt_1_ clk 17 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X173 cal_itt_2_ clk 20 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
X174 cal_itt_3_ clk 22 rstn avdd avss avdd avss sky130_fd_sc_hd_dfrtp_1
.ENDS sar_logic

****
* end of SPICE netlist *
****
